US07932272B2
C-(5-Phenoxymethyl-pyridin-2-yl)-methylamine
2-(5-Phenoxymethyl-pyridin-2-ylmethyl)-isoindol-1,3-dione described in Preparation Example 188 (383 mg, 1.11 mmol) was dissolved in ethanol (3 mL) and tetrahydrofuran (3 mL). Hydrazine monohydrate (538 μL, 11.1 mmol) was added to this solution at room temperature, and the solution was stirred under reflux for 1 hour. The reaction solution was partitioned in water and ethyl acetate. The organic layer was separated, washed with brine, and then, dried over anhydrous magnesium sulfate. The organic layer was filtered, then, the solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (ethyl acetate/methanol=10/1), and the title compound (122 mg, 51%) was obtained as a colorless oil.

reactant | 2-(5-Phenoxymethyl-pyridin-2-ylmethyl)-isoindol-1,3-dione | O(C1=CC=CC=C1)CC=1C=CC(=NC1)CN1C(C2=CC=CC=C2C1=O)=O | C21H16N2O3
reactant | Hydrazine monohydrate | 11.1 mmol, 538 μL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | C-(5-Phenoxymethyl-pyridin-2-yl)-methylamine | 122 mg, 51% | O(C1=CC=CC=C1)CC=1C=CC(=NC1)CN | C13H14N2O
